US05990101
3-acetylimidazo[5,1-b]thiazole
A 651 mg potion of 3-(1-hydroxyethyl)imidazo[5,1-b]thiazole was dissolved in 130 ml of dichloromethane, and 9.77 g of active manganese dioxide was then added, followed by stirring at room temperature for 4 hours. After the completion of the reaction, insolubles were removed therefrom by filtration, followed by washing with dichloromethane. The filtrate was concentrated to dryness under reduced pressure to obtain 550 mg of the title compound.

reactant | 3-(1-hydroxyethyl)imidazo[5,1-b]thiazole | OC(C)C=1N2C(SC1)=CN=C2 | C7H8N2OS
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 9.77 g | [O-2].[O-2].[Mn+4]
product | 3-acetylimidazo[5,1-b]thiazole | 550 mg | C(C)(=O)C=1N2C(SC1)=CN=C2 | C7H6N2OS
